US04126696
Sodium salt of 3-chloro-4-methylsulfonyloxybenzene sulfonic acid (453 g: 1.47 moles), N,N-dimethylformamide (21.1 g: 0.288 mole) and benzene (2000 cc) were mixed and heated with stirring until the mixture was refluxed. Phosphorus oxychloride (237 g: 1.55 moles) was added dropwise to the mixture for 1 hour. The resultant mixture was refluxed with stirring for an additional 3 hours and then water (1000 cc) was added to the resultant mixture under the temperature 20° C.-30° C. with cooling. The mixture was stirred for 1 hour under the same temperature and then the layer of benzene was separated from the mixture. The benzene solution separated was washed with water two times and dried over anhydrous sodium sulfate. Benzene was removed from the benzene solution by distillation to obtain crude white crystals (335. g) of 3-chloro-4-methylsulfonyloxybenzene sulfonylchloride. The crude white crystals were recrystalized from benzene. Yield: 74.7%. Melting point: 100°-100.5° C.

reactant | Sodium | [Na] | Na
reactant | 3-chloro-4-methylsulfonyloxybenzene sulfonic acid | 1.47 moles, 453 g | ClC=1C=C(C=CC1OS(=O)(=O)C)S(=O)(=O)O | C7H7ClO6S2
reactant | N,N-dimethylformamide | 0.288 mole, 21.1 g | CN(C=O)C | C3H7NO
reactant | Phosphorus oxychloride | 1.55 moles, 237 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 1000 cc | O | H2O
solvent | benzene | 2000 cc | C1=CC=CC=C1 | C6H6
product | 3-chloro-4-methylsulfonyloxybenzene sulfonylchloride | Yield: 74.7% | ClC=1C=C(C=CC1OS(=O)(=O)C)S(=O)(=O)Cl | C7H6Cl2O5S2
